US05571825
Following the procedure of Example 4, 2,2'-dimethoxybenzhydrol, synthesized in accordance with M. L. Hoefle, et. al. in J. Med. Chem. 34, 7 (1971)] is reacted with methyl thioglycolate for 3 hours at 50°-60° C. followed by 18 hours at room temperature. Chromatography on silica gel, eluting with a gradient of 10% ethyl acetate in hexane to 20% ethyl acetate in hexane, followed by additional chromatography, eluting with a gradient of 5% ethyl acetate in hexane to 10% ethyl acetate in hexane, gives methyl [[bis-(2-methoxyphenyl)methyl]thio]acetate as a white solid in 72% yield: melting point 65°-67° C.

reactant | 2,2'-dimethoxybenzhydrol | COC1=C(C(C2=C(C=CC=C2)OC)O)C=CC=C1 | C15H16O3
reactant | methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
product | methyl [[bis-(2-methoxyphenyl)methyl]thio]acetate | 72% yield | COC1=C(C=CC=C1)C(SCC(=O)OC)C1=C(C=CC=C1)OC | C18H20O4S
